* 
* Linear Technology LT1192 op amp model  
* Written: 11-19-1992 17:05:43 Type: Bipolar NPN input, internal comp.
* Typical specs: 
* Vos=2.0E-04, Ib=5.0E-07, Ios=2.0E-07, GBP=3.5E+08Hz, Phase mar.= 45 deg, 
* SR(-)=4.5E+02V/us, SR(+)=4.5E+02V/us, Av= 92.0dB, CMRR= 85.0dB, 
* Vsat(+)=1.000V, Vsat(-)=0.500V, Isc=+85/-%100mA, Rout=   3ohms, Iq=%32.00mA.
* 
* Connections: + - V+V-O 
.SUBCKT LT1192 3 2 7 4 6 
* INPUT
RC1 7  80 1.1789E+01
RC2 7  90 1.1789E+01
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  1.8000E-12
C1  80 90 5.5981E-11
RE1 10 12 +8.6552E+00
RE2 11 12 +8.6552E+00
IEE 12 4  1.6501E-02
RE  12 0  1.2120E+04
* INTERMEDIATE 
GCM 0  8  12 0  4.7699E-06
GA  8  0  80 90 8.4823E-02
R2  8  0  1.0000E+05
C2  1  8  3.0000E-11
GB  1  0  8  0  3.1289E+00
RO2 1  0  1.5000E+00
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  1.2252E+01
GCL 0  8  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 1.8378E-01
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0  8  70 7  1.0000E+00
VC  13 6  2.6003E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 0  8  60 4  1.0000E+00
VE  6  14 2.1003E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  1.5499E-02
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=1.3750E+04)
.MODEL QM2 NPN (IS=8.0621E-16 BF=2.0625E+04)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=2.1600E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1192
* 
* - - - - - * FINI LT1192 * - - - - - * [OAMM VN02 10/29/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1993
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *