* 
* Linear Technology LT1227 op amp model  
* Written: 01-22-1993. Type: Current Feedback Amplifier
*
* Connections: + - V+V-O 
.SUBCKT LT1227 3 2 7 4 6
*
Q2A 4 3 10 QPI 0.5
Q3A 11 10 200 QNI
Q4A 11 11 7 QPI
Q5A 9 11 7 QPI
Q6A 12 11 7 QPI 2
Q7A 4 9 12 QPI
Q8A 7 12 13 QNI 10
RSCA 13 6 12
IBA 7 10 DC 325U
RBA 7 10 73K
DIA 10 7 DCC 3
*
Q2B 7 3 110 QNI 0.5
Q3B 111 110 200 QPI
Q4B 111 111 4 QNI
Q5B 9 111 4 QNI
Q6B 112 111 4 QNI 2
Q7B 7 9 112 QNI
Q8B 4 112 113 QPI 10
RSCB 6 113  12
IBB 110 4 DC 325U
RBB 110 4 73K
DIB 4 110 DCC 5
*
CM1 7 11 10PF
CM2 111 4 10PF
*
RIB 7 11 75K
RC 2 200 75
R9 9 0 250K
D1 9 6 DC
D2 6 9 DC
D3 9 7 DCC
D4 4 9 DCC
*
.MODEL DC D
.MODEL DCC D CJO=3PF VJ=0.62 M=0.44 
*
.MODEL QNI NPN TF=225P
.MODEL QPI PNP TF=225P
*
.ENDS LT1227
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1993
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *